US08530491B2
To a stirring solution of 3-fluoroaniline (4.44 g, 40 mmol) and acetoacetic ester (5.20 g, 40 mmol), a catalytic amount (2 drops) of dilute hydrochloric acid was added at 25° C., within 10 minutes water began to separate and small amount of heat was generated. The reaction mixture was allowed to stand at 25° C. overnight; the reaction mixture was diluted with dichloromethane (150 mL), washed successively with 0.5 N HCl (2×50 mL), 0.5 N NaOH (2×50 mL) and water, dried over anhydrous sodium sulphate. Dichloromethane was evaporated and oily residue was added to the refluxing diphenyl ether (40 mL) over a period of 5 minutes, refluxing was continued for 1 hour after that reaction mixture was cooled at 25° C. and solid was separated by filtration, washed with diethyl ether to remove some coloring impurities. The product was obtained as yellow solid (2.3388 g, 33%, based on 3-fluoroaniline) as isomeric mixture of 5 and 7-fluoro-2-methylquinolin-4-ol, used in the next step without purification.

reactant | 3-fluoroaniline | 40 mmol, 4.44 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | water | O | H2O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
product | 7-fluoro-2-methylquinolin-4-ol | FC1=CC=C2C(=CC(=NC2=C1)C)O | C10H8FNO
